US06562828B1
3-Amino-4-(2-hydroxyethylamino)benzonitrile
A solution of 4-(2-hydroxyethylamino)-3-nitrobenzonitrile (3.11 g) and tin chloride dihydrate (16.94 g) in ethanol (50 ml) was stirred at 70° C. for 1 hour. After completion of the reaction, the solvent was evaporated and to the obtained residue were added tetrahydrofuran and 15% aqueous sodium hydroxide solution. The mixture was stirred and insoluble material and the aqueous layer were removed. The obtained organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated. The obtained solid was washed with chloroform, filtrated and dried under reduced pressure to give the title compound (2.08 g).

reactant | 4-(2-hydroxyethylamino)-3-nitrobenzonitrile | 3.11 g | OCCNC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C9H9N3O3
reactant | tin chloride dihydrate | 16.94 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-Amino-4-(2-hydroxyethylamino)benzonitrile | 2.08 g | NC=1C=C(C#N)C=CC1NCCO | C9H11N3O
